* D:\TCIIRepository\TCII\TPLAB1\Draft1.asc
R1 N005 N004 100
C1 N006 N005 470µ
R2 N001 N006 12k
R3 N001 N002 3900
R4 N006 0 49k
V2 N001 0 15
V3 N004 0 SINE(0 10m 1k 0 0) AC 10m
Q1 N002 N006 N007 0 BC547C
R5 N007 0 1200
C2 N007 0 220µ
C3 N003 N002 470µ
R6 N003 0 10k
.model NPN NPN
.model PNP PNP
.lib D:\Onedrive\OneDrive - UTN.BA\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 5ms
;ac dec 100 1 10Meg
.backanno
.end
