* D:\TCIIRepository\TCII\TPLAB1\Draft2.asc
V1 N001 0 AC 1 0
L1 N001 N002 1.5
C1 N002 0 1.333
L2 N002 N003 0.5
R1 N003 0 1
.ac dec 100 0.1 100
.backanno
.end
