* D:\TCIIRepository\TCII\TPLAB1\test1.asc
RG N003 Vout2 {mc(RG,tol)} tol=5
RQ N003 0 {mc(RQ,tol)} tol=5
R Vin+ N002 {mc(R,tol} tol=5
V1 N002 0 AC 1 0
XU2 Vout 0 N003 Vin+ Vin- Vout2 N005 N001 V- V+ 0 NC_01 N004 N006 UAF42
RF1 N001 N004 {mc(RF,tol)} tol=5
RF2 N006 N005 {mc(RF,tol} tol=5
V2 V+ 0 9
V3 0 V- 9
C1 Vin+ 0 {mc(C,tol)}
R1 Vin- 0 {mc(R,tol)}
R2 Vout2 Vin- {mc(R,tol)}
.ac dec 100 0.001 1Meg
.lib opamp.sub
;param R=1 RG=1K RF=99.412K C=169u RQ=55K
* Valores teoricos
.param R=10k RG=56K RF=100K C=18n RQ=RG
* Valores comerciales
.param tol=0.05
.step param x 1 10 1
.lib D:\2022 - LTSpice\UAF42.LIB
.backanno
.end
