* D:\TCIIRepository\TCII\TS6\Circ1.asc
C1 N001 N004 1
R1 N006 N004 {(9/8)}
R2 N001 0 1
R3 N005 N001 {(8/9)}
R4 N003 N005 1
XU1 N003 N006 N005 opamp Aol=100K GBW=10Meg
R5 N002 N003 1
C2 N006 N002 1
XU2 N003 N001 N002 opamp Aol=100K GBW=10Meg
C3 Vo N002 1
R6 0 Vo 1
V1 N004 0 AC 1 0
.ac dec 100 0.001 100k
.lib opamp.sub
.backanno
.end
