* D:\TCIIRepository\TCII\TS6\Circ2.asc
R1 N002 N001 9k
R2 N002 0 {9/8*1000}
R3 N002 vo 1k
R4 vo N005 1k
C1 N005 N006 530.516n
R5 N006 N003 1k
C2 N003 0 1.193µ
R6 N003 0 {18/17*1000}
R7 N003 N001 18k
C3 N003 N001 294.731n
XU1 N005 N003 vo opamp Aol=100K GBW=10Meg
XU2 N005 N002 N006 opamp Aol=100K GBW=10Meg
R8 N004 0 1k
C4 N004 vo 530.516n
V1 N001 0 AC 1 0
.lib opamp.sub
.ac dec 100 0.01 100k
.backanno
.end
