* D:\TCIIRepository\TCII\TS4\Draft3.asc
V1 N001 0 AC 1 0
R1 N002 N001 0.235
L1 N002 0 {1/1.41}
C1 N002 0 {1/1.41}
.ac dec 100 0.0001 100k
.backanno
.end
