* D:\TCIIRepository\TCII\TS14\ts14.asc
V1 N001 0 SINE(0 1 1 0 0 0 1000) AC 1 0 Rser=1
L1 N001 N002 1
C1 N002 0 2
L2 N002 N003 1
R1 N003 0 1
.net I(R1) V1
.ac dec 1000 0.001 1000
.backanno
.end
