* D:\TCIIRepository\TCII\TS15\ts15.asc
V1 N001 0 SINE(0 1 1 0 0 0 1000) AC 1 0 Rser=50
L1 N001 N002 {2.098984325*50/frec}
C1 N002 0 {1.0644605/(50*frec)}
L2 N002 N003 {2.83104364*50/frec}
R1 N003 0 {2.65960419*50}
C2 N003 0 {0.789209287/(50*frec)}
.net I(R1) V1
.ac dec 1000 100k 100Meg
.param frec={2*3.14159265*10Meg}
.backanno
.end
